US05362733
4-[(3,4-Dihydroxy-5-chlorophenyl)methylidene]-2 -thioxoimidazolidin-5-one
A solution containing 1.16 g of thiohydantoin, 1.72 g of 3,4-dihydroxy-5-chlorobenzaldehyde and 0.2 ml of piperidine in 20 ml of acetic acid was heated for 4 h at 100° C. The product was filtered and washed with ether. Yield 1.0 g, mp 303°-304° C.

reactant | thiohydantoin | 1.16 g | N1C(=S)NC(=O)C1 | C3H4N2OS
reactant | 3,4-dihydroxy-5-chlorobenzaldehyde | 1.72 g | OC=1C=C(C=O)C=C(C1O)Cl | C7H5ClO3
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 4-[(3,4-Dihydroxy-5-chlorophenyl)methylidene]-2 -thioxoimidazolidin-5-one | OC=1C=C(C=C(C1O)Cl)C=C1NC(NC1=O)=S | C10H7ClN2O3S
